US05663440
In a 200-milliliter three-necked flask equipped with a stirring device, a thermometer and a nitrogen substituting device, 25.5 g of hexyltriphenylphosphonium bromide and 100 milliliters of tetrahydrofuran were introduced and a nitrogen atmosphere was realized, and then 6.7 g of potassium tert-butoxide was added with ice cooling. After stirring for 70 minutes, a solution of 9.1 g of benzophenon in 30 milliliters of tetrahydrofuran was added dropwise. After stirring for 3 hours and 20 minutes, the solution was poured in ice water containing dilute hydrochloric acid, and extracted with toluene. The solution was washed with an aqueous solution of sodium hydrogencarbonate and water, and thereafter dried with anhydrous sodium sulfate. After removing off the solvent by a rotary evaporator, dissolving the residue in a small amount of toluene, carrying out a separating operation by a column chromatography with silica gel and removing off the solvent by a rotary evaporator, 12.4 g of 1,1-diphenyl-1-heptene was obtained as colorless liquid.

reactant | hexyltriphenylphosphonium bromide | 25.5 g | [Br-].C(CCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 6.7 g | CC(C)([O-])C.[K+]
reactant | benzophenon | 9.1 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
solvent | tetrahydrofuran | 30 milliliters | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 milliliters | O1CCCC1 | C4H8O
product | 1,1-diphenyl-1-heptene | 12.4 g | C1(=CC=CC=C1)C(=CCCCCC)C1=CC=CC=C1 | C19H22
